US07825264B2
1.9 g (5.1 mmol) of tert-butyl [(4-fluorophenyl)(toluene-4-sulfonyl)methyl]carbamate, 255 mg (1.0 mmol) of 3-ethyl-5-(2-hydroxyethyl)-4-methylthiazolium bromide, 10.5 ml (76 mmol) of triethylamine and 0.72 g (4.55 mmol) of 8-quinolinecarbaldehyde were mixed in 44 ml of methylene chloride at room temperature and then heated at 35° C. for 3 h. After reaction of the aldehyde was complete, 25 ml of saturated ammonium chloride solution were added, and the reaction mixture was stirred for 15 minutes. After removal of the aqueous phase, the organic phase was washed with 0.5 M sodium hydroxide solution and saturated sodium chloride solution, and 1.7 g of tert-butyl [1-(4-fluorophenyl)-2-oxo-2-quinolin-8-ylethyl]carbamate were obtained and were reacted further without purification.

reactant | tert-butyl [(4-fluorophenyl)(toluene-4-sulfonyl)methyl]carbamate | 5.1 mmol, 1.9 g | FC1=CC=C(C=C1)C(S(=O)(=O)C1=CC=C(C=C1)C)NC(OC(C)(C)C)=O | C19H22FNO4S
reactant | triethylamine | 76 mmol, 10.5 ml | C(C)N(CC)CC | C6H15N
reactant | 8-quinolinecarbaldehyde | 4.55 mmol, 0.72 g | N1=CC=CC2=CC=CC(=C12)C=O | C10H7NO
reactant | ammonium chloride | 25 ml | [Cl-].[NH4+]
catalyst | 3-ethyl-5-(2-hydroxyethyl)-4-methylthiazolium bromide | 1.0 mmol, 255 mg | [Br-].C(C)[N+]1=CSC(=C1C)CCO
solvent | methylene chloride | 44 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl [1-(4-fluorophenyl)-2-oxo-2-quinolin-8-ylethyl]carbamate | 1.7 g | FC1=CC=C(C=C1)C(C(C=1C=CC=C2C=CC=NC12)=O)NC(OC(C)(C)C)=O | C22H21FN2O3
